* Z:\mnt\design.r\spice\examples\3400.asc
XU1 N001 0 N003 N002 OUT IN LTC3400
L1 IN N001 4.7µ Rser=0.1
R1 OUT N003 1.02Meg
R2 N003 0 604K
V1 IN 0 1.4
C1 OUT 0 4.7µ
Rload OUT 0 50
R3 IN N002 1Meg
.tran 250u startup
.lib LTC3400.sub
.backanno
.end
